US05504101
A stirred mixture of 5-hydroxyindole (0.5 g, 3.8 mmol), anhydrous K2CO3 (1.58 g, 11.4 mmol), (4-bromobutyl) benzene (2.11 g, 11.4 mmol), and a catalytic amount of Kl in 2-butanone (40 ml) was heated at reflux overnight under nitrogen. After allowing to cool to room temperature, the reaction mixture was filtered, the flitrate then concentrated under reduced pressure to give an oil. The oil was taken up in CH2Cl2 (50 ml) and washed successively with 2N-NaOH (1×20 ml) and water (1×20 ml). The organic portion was dried (MgSO4) and the solvent was removed under reduced pressure to give an oil. The oil was purified by column chromatography using a solvent system of CH2Cl2 /Hexane (40:60) to give 5-(4-phenylbutyloxy)indole as an oil.

reactant | 5-hydroxyindole | 3.8 mmol, 0.5 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | K2CO3 | 11.4 mmol, 1.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (4-bromobutyl) benzene | 11.4 mmol, 2.11 g | BrCCCCC1=CC=CC=C1 | C10H13Br
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-phenylbutyloxy)indole | C1(=CC=CC=C1)CCCCOC=1C=C2C=CNC2=CC1 | C18H19NO
